US08383637B2
N-[3-(4-Amino-3-propylaminomethyl-benzenesulfinyl)-phenyl]-benzenesulfonamide
A mixture of N-[3-(4-nitro-3-propylaminomethyl-benzenesulfinyl)-phenyl]-benzenesulfonamide (0.0019 mol) in methanol (100 mL) was hydrogenated with 10% Pd/C (0.5 g) as a catalyst. After uptake of H2 (3 equiv.), the reaction mixture was filtered over Dicalite, and the filtrate was evaporated. The residue was filtered over silica gel (eluent: 95:5 CH2Cl2:CH3OH), and then the purest product fractions were collected, and the solvent was evaporated to yield the title compound as a residue.

reactant | N-[3-(4-nitro-3-propylaminomethyl-benzenesulfinyl)-phenyl]-benzenesulfonamide | 0.0019 mol | [N+](=O)([O-])C1=C(C=C(C=C1)S(=O)C=1C=C(C=CC1)NS(=O)(=O)C1=CC=CC=C1)CNCCC | C22H23N3O5S2
reactant | Dicalite | O=[Si]=O | O2Si
solvent | methanol | 100 mL | CO | CH4O
catalyst | Pd/C | 0.5 g | [Pd] | Pd
product | N-[3-(4-Amino-3-propylaminomethyl-benzenesulfinyl)-phenyl]-benzenesulfonamide | NC1=C(C=C(C=C1)S(=O)C=1C=C(C=CC1)NS(=O)(=O)C1=CC=CC=C1)CNCCC | C22H25N3O3S2
